US07834063B2
A. Methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycinate
A mixture of 4-(2,2,2-trifluoro-ethylamino)-2-trifluoromethyl-benzonitrile (5.00 g, 18.7 mmol), methyl bromoacetate (3.25 mL, 37.5 mmol), and Cs2CO3 (12.2 g, 37.3 mmol) in acetonitrile (50 mL) was held at reflux, under N2, for 2 h and cooled to rt, and solids were removed by filtration. The filtrate was adsorbed onto a minimal amount of silica gel, filtered through a short pad of silica gel (EtOAc/hexanes) and concentrated to dryness. Recrystallization from EtOAc/hexanes afforded 4.72 g of the title compound as fine needles, mp 144-145° C.: 1H NMR (400 MHz, CDCl3) δ 7.69 (d, J=8.9 Hz, 1H), 7.01 (d, J=2.3 Hz, 1H), 6.88 (dd, J=2.6 Hz, 1H), 4.24 (s, 2H), 4.06 (q, J=8.5 Hz, 2H), 3.81 (s, 3H).

reactant | 4-(2,2,2-trifluoro-ethylamino)-2-trifluoromethyl-benzonitrile | 18.7 mmol, 5.00 g | FC(CNC1=CC(=C(C#N)C=C1)C(F)(F)F)(F)F | C10H6F6N2
reactant | methyl bromoacetate | 37.5 mmol, 3.25 mL | BrCC(=O)OC | C3H5BrO2
reactant | Cs2CO3 | 37.3 mmol, 12.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycinate | 4.72 g | C(#N)C1=C(C=C(C=C1)N(CC(=O)OC)CC(F)(F)F)C(F)(F)F | C13H10F6N2O2
